US06258854B1
Synthesis of 3-(3-Isopropylphenyl)butanol
To a refluxing solution of 132.8 g aluminum isopropoxide in 800 ml of isopropanol, a solution of 300 g of 3-(3-isopropylphenyl)butanal in 200 ml of isopropanol was dropped in. The resulting solution was refluxed for 1.5 hours, then cooled and diluted with ether. Then, the organic phase was washed with brine, dried, and evaporated to dryness. The resulting oil was distilled to yield 223.5 g of a colorless oil.

reactant | aluminum isopropoxide | 132.8 g | CC([O-])C.[Al+3].CC([O-])C.CC([O-])C
reactant | 3-(3-isopropylphenyl)butanal | 300 g | C(C)(C)C=1C=C(C=CC1)C(CC=O)C | C13H18O
solvent | isopropanol | 800 ml | C(C)(C)O | C3H8O
solvent | isopropanol | 200 ml | C(C)(C)O | C3H8O
solvent | ether | CCOCC | C4H10O
product | 3-(3-Isopropylphenyl)butanol | 223.5 g | C(C)(C)C=1C=C(C=CC1)C(CCO)C | C13H20O
